US05308857
The mixture of 4-(5-aminomethylfuran-2-yl)-2-(diaminomethyleneamino)thiazole (4.0 g), furfurylthioacetic acid (3.4 g) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (4.2 g) in N,N-dimethylformamide (40 ml) was stirred for 15 hours at ambient temperature. The mixture was added a mixture of ethyl acetate, tetrahydrofuran and water and the mixture was adjusted to pH 9.5 with potassium carbonate. The separated organic layer was washed with a brine and dried over magnesium sulfate. Evaporation of a solvent gave a residue, which was purified by column chromatography on silica gel eluting with a mixture of ethyl acetate and methanol (9:1, V/V). The eluted fractions containing the desired product were collected and evaporated in vacuo. The residue was recrystallized from a mixture of methanol, dioxane, and isopropyl ether to give 2-(diaminomethyleneamino)-4-[5-{(furan-2-yl)methylthio}acetamidomethylfuran-2-yl]thiazole (3.50 g).

reactant | 4-(5-aminomethylfuran-2-yl)-2-(diaminomethyleneamino)thiazole | 4.0 g | NCC1=CC=C(O1)C=1N=C(SC1)N=C(N)N | C9H11N5OS
reactant | furfurylthioacetic acid | 3.4 g | C(C1=CC=CO1)CC(=S)O | C7H8O2S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 4.2 g | Cl.CN(CCCN=C=NCC)C
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(diaminomethyleneamino)-4-[5-{(furan-2-yl)methylthio}acetamidomethylfuran-2-yl]thiazole | 3.50 g | NC(N)=NC=1SC=C(N1)C=1OC(=CC1)CNC(CSCC=1OC=CC1)=O | C16H17N5O3S2
